US09056873B2
In a 30 mL sealed cap glass tube, tert-butyl 6-((1R,2S)-2-(tert-butoxycarbonylamino)cyclohexylamino)-4-chloro-7-fluoro-3-oxo-1H-pyrrolo[3,4-c]pyridine-2(3H)-carboxylate (150 mg, 0.301 mmol), 1,3-dimethyl-5-(tributylstannyl)-1H-thieno[3,2-c]pyrazole (265 mg, 0.601 mmol) and tetrakis(triphenylphosphine) palladium(0) (174 mg, 0.150 mmol) were dissolved in toluene (5 mL). The cap was sealed and the reaction mixture was heated at 90° C. in an oil bath for 2 hours. The mixture was concentrated to give the intermediate, tert-butyl 6-(((1R,2S)-2-((tert-butoxycarbonyl)amino)cyclohexyl)amino)-4-(1,3-dimethyl-1H-thieno[3,2-c]pyrazol-5-yl)-7-fluoro-3-oxo-1H-pyrrolo[3,4-c]pyridine-2(3H)-carboxylate. The intermediate was dissolved in TFA (5 mL) and the reaction mixture was stirred for 2 hours. The mixture was concentrated, dissolved in DMSO (5 mL), and purified via preparatory HPLC eluting with a gradient of 15-65% ACN (0.035% TFA) and H2O (0.05% TFA). The pure fractions were combined, evaporated to a minimal volume, and lyophilized to give a TFA salt of the title compound as a white solid (95 mg, 72%). 1H NMR (400 MHz, DMSO-d6) δ ppm 1.48 (br s, 2H), 1.43-2.03 (m, 6H), 2.33 (s, 3H), 3.83 (br s, 1H), 3.90 (s, 3H), 4.28 (br s, 1H), 4.39-4.51 (m, 2H), 7.09 (d, J=5.81 Hz, 1H), 7.79 (br s, 3H), 8.61 (s, 1H), 9.22 (s, 1H). ESI-MS m/z [M+H]+ calc'd for C20H23FN6OS, 415. found, 415.

reactant | tert-butyl 6-((1R,2S)-2-(tert-butoxycarbonylamino)cyclohexylamino)-4-chloro-7-fluoro-3-oxo-1H-pyrrolo[3,4-c]pyridine-2(3H)-carboxylate | 0.301 mmol, 150 mg | C(C)(C)(C)OC(=O)N[C@@H]1[C@@H](CCCC1)NC1=C(C2=C(C(=N1)Cl)C(N(C2)C(=O)OC(C)(C)C)=O)F | C23H32ClFN4O5
reactant | 1,3-dimethyl-5-(tributylstannyl)-1H-thieno[3,2-c]pyrazole | 0.601 mmol, 265 mg | CN1N=C(C2=C1C=C(S2)[Sn](CCCC)(CCCC)CCCC)C
solvent | toluene | 5 mL | C1(=CC=CC=C1)C | C7H8
catalyst | tetrakis(triphenylphosphine) palladium(0) | 0.150 mmol, 174 mg | [Pd].C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1
product | tert-butyl 6-(((1R,2S)-2-((tert-butoxycarbonyl)amino)cyclohexyl)amino)-4-(1,3-dimethyl-1H-thieno[3,2-c]pyrazol-5-yl)-7-fluoro-3-oxo-1H-pyrrolo[3,4-c]pyridine-2(3H)-carboxylate | C(C)(C)(C)OC(=O)N[C@@H]1[C@@H](CCCC1)NC1=C(C2=C(C(=N1)C1=CC=3N(N=C(C3S1)C)C)C(N(C2)C(=O)OC(C)(C)C)=O)F | C30H39FN6O5S
